US06049006
A solution of acetyl chloride (10 ml, 0.146 moles) in 200 ml of methylene chloride was added under nitrogen dropwise over 45 minutes to a solution of 2-amino-1-phenylethanol (20.0 g, 0.146 moles) and triethylamine (20 ml, 0.146 moles) in 300 ml of methylene chloride at ice bath temperature. After the addition the reaction was stirred at ice bath temperature for 3 hours and overnight at room temperature. The reaction was extracted with 1N HCl. The organic layer was separated and the aqueous layer was extracted with methylene chloride and then 10% methanol-methylene chloride. The organic extracts were combined, dried (MgSO4) and the solvent removed under reduced pressure to give a solid material. Recrystallization of this solid from isopropyl alcohol gave N-(2-hydroxy-2-phenyl-ethyl)-acetamide (9.0 g, 34%) as a white solid, mp 120-122° C.

reactant | acetyl chloride | 0.146 moles, 10 ml | C(C)(=O)Cl | C2H3ClO
reactant | 2-amino-1-phenylethanol | 0.146 moles, 20.0 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | triethylamine | 0.146 moles, 20 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-(2-hydroxy-2-phenyl-ethyl)-acetamide | 9.0 g, 34% | OC(CNC(C)=O)C1=CC=CC=C1 | C10H13NO2
